US06077812
Step B 1-methyl-6-trifluoromethyl-3-(4-chloro-2-fluoro-5-hydroxy-6-nitrophenyl)-2,4(1H,3H)-pyrimidinedione
This compound was prepared in the manner of Step A of Example 1, using 3.8 grams (0.011 mole) of 1-methyl-6-trifluoromethyl-3-(4-chloro-2-fluoro-5-hydroxyphenyl)-2,4(1H,3H)-pyrimidinedione, 1.0 gram (0.011 mole) of 70% nitric acid, and 50 mL of sulfuric acid, yielding 1.5 grams of title compound. The NMR spectrum was consistent with the proposed structure.

reactant | 1-methyl-6-trifluoromethyl-3-(4-chloro-2-fluoro-5-hydroxyphenyl)-2,4(1H,3H)-pyrimidinedione | 0.011 mole, 3.8 grams | CN1C(N(C(C=C1C(F)(F)F)=O)C1=C(C=C(C(=C1)O)Cl)F)=O | C12H7ClF4N2O3
reactant | nitric acid | 0.011 mole, 1.0 gram | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 50 mL | S(O)(O)(=O)=O | H2O4S
product | 1-methyl-6-trifluoromethyl-3-(4-chloro-2-fluoro-5-hydroxy-6-nitrophenyl)-2,4(1H,3H)-pyrimidinedione | 1.5 grams | CN1C(N(C(C=C1C(F)(F)F)=O)C1=C(C=C(C(=C1[N+](=O)[O-])O)Cl)F)=O | C12H6ClF4N3O5
